US05164402
These compounds can be prepared from 2-hydroxymethylpyridine by protection of the primary alcohol as the tetrahydropyranyl ether followed by reaction with benzyl iodide, and sodium borohydride reduction, according to the method reported by Sashida and Tsuchiya, Chem. Pharm. Bull., 32, 4600 (1984), to provide 1-benzyl-2-[(tetrahydro-2H-pyran-2-yl)oxy]methyl-1,2,3,6-tetrahydropyridine. Cyclopropanation with diazomethane/zinc iodide, according to the method of Attia in Section XV, then gives 3-benzyl4-[(tetrahydro-2H-pyran-2-yl)oxy]methyl-3-azabicyclo[4.1.0]heptane. Acid-induced removal of the tetrahydropyranyl group can be followed by methods described in Section VIII to provide the desired 4-R3-substituent

reactant | 2-hydroxymethylpyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | benzyl iodide | C(C1=CC=CC=C1)I | C7H7I
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-benzyl-2-[(tetrahydro-2H-pyran-2-yl)oxy]methyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1C(CC=CC1)COC1OCCCC1 | C18H25NO2
